US07220856B2
Preparation of 6-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
6-Chloro-4-(piperazin-1-yl)quinoline (0.25 g, 1.0 mmol), 4-fluorophenyl isocyanate (170 μL, 1.5 mmol), and DMAP (2 mg) in THF (10 mL) are reacted according to method C yielding the product as a colorless solid after column chromatography with hexane-EtOAc. 1H NMR ([D]6-DMSO), δ 3.17 (m, 4H), 3.75 (m, 4H), 7.08 (t, 2H), 7.10 (d, 1H), 7.46 (dd, 2H), 7.72 (dd, 1H), 7.98 (d, 1H), 8.01 (d, 1H), 8.68 (br. s, 1H), 8.72 (d, 1H).

reactant | 6-Chloro-4-(piperazin-1-yl)quinoline | 1.0 mmol, 0.25 g | ClC=1C=C2C(=CC=NC2=CC1)N1CCNCC1 | C13H14ClN3
reactant | 4-fluorophenyl isocyanate | 1.5 mmol, 170 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
catalyst | DMAP | 2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | ClC=1C=C2C(=CC=NC2=CC1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C20H18ClFN4O
